US07989461B2
Preparation of 6-methyl-5-nitro-N-(3-(trifluoromethyl)phenyl)isoquinolin-1-amine
1-Chloro-6-methyl-5-nitroisoquinoline (0.25 g, 1.1 mmol) and 3-(trifluoromethyl)benzenamine (0.17 mL, 1.3 mmol) were added to a microwave tube containing 3 mL of isopropanol. The tube was capped and heated at 180° C. for 1500 seconds. The volatiles were removed in vacuo. The residue was taken up in DCM and washed with saturated NaHCO3. The organic layer was dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 10 to 40% of ethyl acetate in hexanes to give the product as an orange solid (0.31 g, 79%). MS (M+H)+ 348.

reactant | 1-Chloro-6-methyl-5-nitroisoquinoline | 1.1 mmol, 0.25 g | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
reactant | 3-(trifluoromethyl)benzenamine | 1.3 mmol, 0.17 mL | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 6-methyl-5-nitro-N-(3-(trifluoromethyl)phenyl)isoquinolin-1-amine | 0.31 g, 79% | CC=1C(=C2C=CN=C(C2=CC1)NC1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-] | C17H12F3N3O2
